US08252935B2
b) 4-Methyl-2-{4′-trifluoromethyl-5-[6-trifluoromethyl-1-(4-trifluoromethyl-benzyl)-piperidin-2-yl]-biphenyl-3-yl}-pentanoic acid
To a solution of 4-methyl-2-{4′-trifluoromethyl-5-[6-trifluoromethyl-1-(4-trifluoromethyl-benzyl)-piperidin-2-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester, compound 8a (25 mg, 0.037 mmol), in EtOH (2 mL) was added 2M KOH (74 μl, 0.148 mmol). The reaction was heated to 78° C. for 5 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, followed by salt exchange with aqueous 1N HCl gave the product as a white solid. (2.1 mg, 9%) 1H NMR (300 MHz, MeOD) δ ppm 0.86-0.96 (m, 6 H) 1.43-1.50 (m, 1 H) 1.54-1.64 (m, J=13.52, 6.97, 6.83, 3.58 Hz, 2 H) 1.83-1.98 (m, 5 H) 2.10-2.30 (m, 1 H) 3.58-3.73 (m, 2 H) 3.98 (d, J=17.71 Hz, 3 H) 7.18-7.26 (m, 2 H) 7.35 (d, J=8.67 Hz, 3 H) 7.44-7.49 (m, 2 H) 7.60-7.65 (m, 2 H) 7.68-7.74 (m, 2 H) Calcd for C33H32F9NO2 (M+H) 645.60, Found 646.3.

reactant | 4-methyl-2-{4′-trifluoromethyl-5-[6-trifluoromethyl-1-(4-trifluoromethyl-benzyl)-piperidin-2-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1N(C(CCC1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H36F9NO2
reactant | KOH | 0.148 mmol, 2M, 74 μl | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-Methyl-2-{4′-trifluoromethyl-5-[6-trifluoromethyl-1-(4-trifluoromethyl-benzyl)-piperidin-2-yl]-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1N(C(CCC1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C33H32F9NO2
